US07968583B2
Preparation of 2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoic acid
To a solution of 3H-isobenzofuran-1-one (18 g, 134 mmol) in dry N,N-dimethylformamide (110 mL) was added potassium phthalimide (27 g, 145 mmol). The mixture was stirred at reflux for 6 hours then cooled to 0° C. and treated with 1N hydrochloric acid (180 mL). The yellow solid thus formed was filtered, washed with water, with ethanol and dried in oven. Crystallization with ethanol afforded the title compound as white solid (27 g).

reactant | 3H-isobenzofuran-1-one | 134 mmol, 18 g | C1(OCC2=CC=CC=C12)=O | C8H6O2
reactant | potassium phthalimide | 145 mmol, 27 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | hydrochloric acid | 1N, 180 mL | Cl | ClH
solvent | N,N-dimethylformamide | 110 mL | CN(C=O)C | C3H7NO
product | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoic acid | 27 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=C(C(=O)O)C=CC=C1 | C16H11NO4
